US06974831B2
2-[[3-(2-Amino-1,2-dioxoethyl)-2-methyl-1-benzyl-1,6,7,8-tetrahydrocyclo-pent[g]indol-4-yl]oxy]acetic acid methyl ester
A solution of 1-benzyl-2-methyl-4-methoxy-1,6,7,8-tetrahydrocyclopent[g]indole (2.2 g, 7.6 mmol) in chloroform (40 mL) was treated with boron tribromide (2.8 mL, 30 mmol) at 0° C. The mixture was warmed to room temperature and stirred for 2.5 h. The mixture was poured into water and extracted with chloroform. The organic layer was washed once with water, once with saturated sodium chloride solution, dried (sodium sulfate), filtered, and concentrated in vacuo to provide an oil. A solution of this material (oil) in N,N-dimethylformamide (35 mL) was treated with cesium carbonate (3.21 g, 9.10 mmol) and methyl bromoacetate (0.86 mL, 9.1 mmol) at room temperature. After stirring for 18 h, the mixture was poured into water and extracted with ethyl acetate. The organic layer was washed once with water, once with saturated sodium chloride solution, dried (sodium sulfate), filtered, and concentrated in vacuo. Chromatography (silica gel, 10% ethyl acetate/90% hexanes) provided 0.43 g (16%) of the title product as a white solid: mp 135-138° C. 1H NMR (CDCl3) δ 7.22 (m, 3H), 6.88 (d, J=7.0 Hz, 2H), 6.47 (s, 1H), 6.36 (s, 1H), 5.42 (s, 2H), 4.76 (s, 2H), 3.82 (s, 3H), 3.00 (t, J=7.3 Hz, 2H), 2.90 (t, J=7.3 Hz, 2H), 2.29 (s, 3H), 2.04 (quintet, J=7.0 Hz, 2H); MS ES+ m/e 350 (p+1); IR (CHCl3, cm−1) 2955, 1760, 1737, 1496.

reactant | 1-benzyl-2-methyl-4-methoxy-1,6,7,8-tetrahydrocyclopent[g]indole | 7.6 mmol, 2.2 g | C(C1=CC=CC=C1)N1C(=CC2=C(C=C3C(=C12)CCC3)OC)C | C20H21NO
reactant | boron tribromide | 30 mmol, 2.8 mL | B(Br)(Br)Br | BBr3
reactant | cesium carbonate | 9.10 mmol, 3.21 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | methyl bromoacetate | 9.1 mmol, 0.86 mL | BrCC(=O)OC | C3H5BrO2
reactant | N,N-dimethylformamide | 35 mL | CN(C=O)C | C3H7NO
solvent | chloroform | 40 mL | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
product | 2-[[3-(2-Amino-1,2-dioxoethyl)-2-methyl-1-benzyl-1,6,7,8-tetrahydrocyclo-pent[g]indol-4-yl]oxy]acetic acid methyl ester | 0.43 g, 16% | COC(COC1=C2C(=C(N(C2=C2C(=C1)CCC2)CC2=CC=CC=C2)C)C(C(=O)N)=O)=O | C24H24N2O5
